US04221788
2-(4-chlorobenzyl)perhydroazepine
Add 0.5 g of lithium aluminum hydride to a solution of 2.8 g 7-(4-chlorobenzyl)-perhydroazepin -2-one in 30 ml of tetrahydrofurane. Boil the mixture under reflux for 16 hours, cool it and then carefully treat it with ice-water. After extraction with diethyl ether, dry the extract over sodium sulfate concentrate the oily residue and distill in a vacuum to obtain 1.8 g of the title compound with a BP of 90° to 92° at 0.05 mm Hg.

reactant | lithium aluminum hydride | 0.5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 7-(4-chlorobenzyl)-perhydroazepin -2-one | 2.8 g | ClC1=CC=C(CC2CCCCC(N2)=O)C=C1 | C13H16ClNO
solvent | tetrahydrofurane | 30 ml | O1CCCC1 | C4H8O
product | 2-(4-chlorobenzyl)perhydroazepine | 1.8 g | ClC1=CC=C(CC2NCCCCC2)C=C1 | C13H18ClN
